US04093588
1-(3,5-di-tert.-butyl-4-hydroxybenzyl)-4,4-dimethyl-1-oxo-2,6-dioxa-1-phosphacyclohexane
Similarly, 1-(3,5-di-tert-octyl-4-hydroxybenzyl)-1-oxo-2,6-dioxa-1-phosphacyclohexane is made by substituting 1,3-propanediol for 2,2-dimethyl-1,3-propanediol and diphenyl 3,5-di-tert-octyl-4-hydroxybenzylphosphonate for diphenyl 3,5-di-tert-butyl-4-hydroxybenzylphosphonate in the above example.

reactant | 1-(3,5-di-tert-octyl-4-hydroxybenzyl)-1-oxo-2,6-dioxa-1-phosphacyclohexane | C(C)(C)(CC(C)(C)C)C=1C=C(CP2(OCCCO2)=O)C=C(C1O)C(C)(C)CC(C)(C)C | C26H45O4P
reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
reactant | diphenyl 3,5-di-tert-octyl-4-hydroxybenzylphosphonate | C(C)(C)(CC(C)(C)C)C=1C=C(CP(OC2=CC=CC=C2)(OC2=CC=CC=C2)=O)C=C(C1O)C(C)(C)CC(C)(C)C | C35H49O4P
reactant | diphenyl 3,5-di-tert-butyl-4-hydroxybenzylphosphonate | C(C)(C)(C)C=1C=C(CP(OC2=CC=CC=C2)(OC2=CC=CC=C2)=O)C=C(C1O)C(C)(C)C | C27H33O4P
product | 1-(3,5-di-tert.-butyl-4-hydroxybenzyl)-4,4-dimethyl-1-oxo-2,6-dioxa-1-phosphacyclohexane | C(C)(C)(C)C=1C=C(CP2(OCC(CO2)(C)C)=O)C=C(C1O)C(C)(C)C | C20H33O4P
